US05399580
(±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(2-amino-4,5-dichloroanilino)-1,2-cyclopentanediyl diacetate
(±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate (4.30 g, 9.28 mmol) in isopropanol (250 mL) was shaken with Raney nickel (Aldrich, slurry in water, 400 mg wet) under hydrogen (50 psi) on a Parr shaker for 2.75 hours. Catalyst was filtered off with Celite and the filtrate-wash (350 mL) stored at -5° C. Yellow crystals of title compound formed slowly (2.35 g, 58%), m.p. 124°-125° C.; 1H-NMR(DMSO-d6) δ: 6.70 and 6.57 (both s, 1 each, 2 aromatic CH), 5.15-4.9 (m, 5, NH2, NH, and 2 OCH), 4.2-4.0 (m, 2, CH2O ), 3.9-3.75 (m, 1, NCH), 2.5-2.4 (m overlapping solvent, CH2), 2.07, 2.04, and 2.01 (all s, 9,3 CH3), 1.4-1.2 (m, 1, CH); mass spectrum(CI): 433(M+1)

reactant | (±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(4,5-dichloro-2-nitroanilino)-1,2-cyclopentanediyl diacetate | 9.28 mmol, 4.30 g | C(C)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])COC(C)=O)OC(C)=O | C18H20Cl2N2O8
solvent | isopropanol | 250 mL | C(C)(C)O | C3H8O
catalyst | Raney nickel | 400 mg | [Ni] | Ni
product | (±)-(1R*,2S*,3S*,5S*)-3-(Acetoxymethyl)-5-(2-amino-4,5-dichloroanilino)-1,2-cyclopentanediyl diacetate | C(C)(=O)O[C@H]1[C@H]([C@@H](C[C@@H]1NC1=C(C=C(C(=C1)Cl)Cl)N)COC(C)=O)OC(C)=O | C18H22Cl2N2O6
